US04678781
A solution of 2-propyl-4-methylthioquinazoline (1.08 g.) in methyl iodide (5 ml.) was heated under reflux for 18 hours. The solid was separated from the cooled mixture and washed with ether to give 1-methyl-4-methylthio-2-propylquinazolinium iodide; n.m.r. in d6DMSO: 1.15(t, 3H); 2.0(m, 2H); 2.9(s, 3H); 3.35(t, 2H); 4.3(s, 3H); 7.9-8.6(complex, 4H).

reactant | 2-propyl-4-methylthioquinazoline | 1.08 g | C(CC)C1=NC2=CC=CC=C2C(=N1)SC | C12H14N2S
reactant | methyl iodide | 5 ml | CI | CH3I
product | 1-methyl-4-methylthio-2-propylquinazolinium iodide | [I-].C[N+]1=C(N=C(C2=CC=CC=C12)SC)CCC | InChI=1S/C13H17N2S.HI/c1-4-7-12-14-13(16-3)10-8-5-6-9-11(10)15(12)2;/h5-6,8-9H,4,7H2,1-3H3;1H/q+1;/p-1
